US04242518
1.86 parts of 3-thiolacetoxy-dihydrothiophene-4-carboxylic acid methyl ester are reacted with 1.76 parts by volume of sulfuryl chloride in 25 parts by volume of chloroform in the course of one hour at 0° C. The end product is isolated from the reaction mixture by the method described in Example 1c. 1.4 parts (75% of theory) of 3-thiolacetoxy-thiophene-4-carboxylic acid methyl ester of melting point 92°-95° C. are obtained.

reactant | 3-thiolacetoxy-dihydrothiophene-4-carboxylic acid methyl ester | COC(=O)C=1C(CSC1)OC(CC=1SC=CC1)=O | C12H12O4S2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-thiolacetoxy-thiophene-4-carboxylic acid methyl ester | 75% | COC(=O)C=1C(=CSC1)OC(CC=1SC=CC1)=O | C12H10O4S2
